data/oMe_Silver.jsonl
{"reaction_id": "NR-332_1-Cl_2-F_3-Cl_4-Cl","level": "hard","name": "Reimer-Tiemann Formylation","reactants_smiles": ["c1(O)c(Cl)c(F)c(Cl)c(Cl)c1","ClC(Cl)Cl","[OH-]"],"products_smiles": ["c1(O)c(Cl)c(F)c(Cl)c(Cl)c1(C=O)"],"conditions": "Strong base (e.g., KOH), Heat","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](Cl)Cl","step_weight": 0,"rationale": "Strong base abstracts a proton from chloroform, and the adjacent chloride leaves due to the stability of the resulting dichlorocarbene under these conditions."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(=O)C([C-](Cl)Cl)C(Cl)=C(F)C(Cl)=C1(Cl)","step_weight": 0,"rationale": "The electron-rich aromatic ring, activated by the ortho/para-directing hydroxyl group, attacks the electrophilic dichlorocarbene to form a cyclohexadienyl intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1([O-])c(Cl)c(F)c(Cl)c(Cl)c1(C(Cl)Cl)","step_weight": 0,"rationale": "Base deprotonates the phenolic OH, increasing electron density on the ring and stabilizing the intermediate via resonance."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CCl)C(Cl)=C(Cl)C(F)=C1(Cl)","step_weight": 0,"rationale": "Loss of chloride from the benzylic position is favored due to resonance stabilization of the resulting cationic character in the aromatic system."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1([O-])c(C(O)Cl)c(Cl)c(Cl)c(F)c1(Cl)","step_weight": 0,"rationale": "Hydroxide attacks the electrophilic carbon bearing chlorine, driven by the strong leaving group ability of chloride and the polar medium."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=O)C(=CO)C(Cl)=C(Cl)C(F)=C1(Cl)","step_weight": 0,"rationale": "Elimination of chloride from the geminal chlorohydrin intermediate forms the aldehyde functionality, favored by the stability of the carbonyl."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(O)c(Cl)c(F)c(Cl)c(Cl)c1(C=O)","step_weight": 0,"rationale": "Protonation of the phenoxide restores the neutral phenol, completing the ortho-formylation."}],"description": "Under strongly basic and heated conditions, chloroform undergoes deprotonation and α-elimination to generate dichlorocarbene, which electrophilically attacks the activated aromatic ring ortho to the hydroxyl group. Subsequent hydrolysis and elimination steps convert the carbene adduct into the ortho-formylated phenol via the Reimer–Tiemann pathway."}
{"reaction_id": "NR-061_1-C(F)(F)F_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(C(F)(F)F)C(=O)CCCC(=O)O(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["O(C(F)(F)F)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(F)(F)F)C(=O)[CH-]CCCC(=O)O(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(C(F)(F)F)C(=O)C1C([O-])(O(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(C(F)(F)F)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
